US07727986B2
N′-{4-[(2-chloro-6-methylpyrimidin-4-yl)oxy]-2,5-dimethylphenyl}-N-ethyl-N-methylimido-formamide-Process (d1)-Compound (V) to Compound (I)
To a mixture of 310 mg (0.8 mmol) of 4-[(2-chloro-6-methylpyrimidin-4-yl)oxy]-2,5-dimethyl-aniline in 20 ml acetonitrile 208 mg (1.5 mmol) of N-(dimethoxymethyl)-N-methylethanamine (77% pure) was added. The reaction mixture was refluxed for 20 hrs. The reaction mixture was concentrated in vacuo, diluted with ethyl acetate and washed with water. The organic layer was dried over magnesium sulfate and concentrated in vacuo yielded 220 mg (59%) with a purity of 72% log P (pH=2.3)=1.45.

reactant | 4-[(2-chloro-6-methylpyrimidin-4-yl)oxy]-2,5-dimethyl-aniline | 0.8 mmol, 310 mg | ClC1=NC(=CC(=N1)OC1=CC(=C(N)C=C1C)C)C | C13H14ClN3O
reactant | acetonitrile | 1.5 mmol, 20 ml, 208 mg | C(C)#N | C2H3N
reactant | N-(dimethoxymethyl)-N-methylethanamine | COC(N(CC)C)OC | C6H15NO2
product | N′-{4-[(2-chloro-6-methylpyrimidin-4-yl)oxy]-2,5-dimethylphenyl}-N-ethyl-N-methylimido-formamide | ClC1=NC(=CC(=N1)OC1=CC(=C(C=C1C)N=CN(C)CC)C)C | C17H21ClN4O
